US09062076B2
A solution of dry DMSO (0.453 mL, 6.4 mmol) in DCM (2 mL) was added dropwise to a solution of oxalyl chloride (0.338 mL, 4 mmol) in DCM (5 mL) at −78° C. The reaction was stirred for 30 min at −78° C. then a solution of N-(2-hydroxyethyl)-2-iodo-4,5-dimethoxybenzamide (702 mg, 2 mmol) in DCM (3 mL) was added via cannula. The mixture was stirred at −78° C. for 1 hour then dry Et3N (1.7 mL, 12 mmol) was added slowly. Stirring was continued at −78° C. for 1 hour by which time the formation of the aldehyde was complete (monitored by TLC). Solid Ph3P═CHCOOEt (1.0 g, 3 mmol) was then added and the reaction was allowed to warm slowly to room temperature overnight. The solvent was removed under reduced pressure and the crude product was purified by flash column using petroleum ether/ethyl acetate (from 6:1 to 3:1) as eluent to give (Z)-ethyl 4-(2-iodo-4,5-dimethoxybenzamido)but-2-enoate (280 mg, 34%). LC-MS (ES-API); rt 8.46 min; m/z calculated for C15H18INO5 [M+H]+ 420.0, found 420.0.

reactant | DMSO | 6.4 mmol, 0.453 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 4 mmol, 0.338 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-(2-hydroxyethyl)-2-iodo-4,5-dimethoxybenzamide | 2 mmol, 702 mg | OCCNC(C1=C(C=C(C(=C1)OC)OC)I)=O | C11H14INO4
reactant | Et3N | 12 mmol, 1.7 mL | CCN(CC)CC | C6H15N
reactant | Ph3P | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (Z)-ethyl 4-(2-iodo-4,5-dimethoxybenzamido)but-2-enoate | 280 mg, 34% | IC1=C(C(=O)NC\C=C/C(=O)OCC)C=C(C(=C1)OC)OC | C15H18INO5
